US04992591
(B) Preparation of (±)-(1RS)-1-(4-Chloro-3-methoxyphenyl)-3,4-dihydro-2(1H)-naphthalenone (7)
Charge an oven dried, argon flushed 3-L 3-necked round bottomed flask equipped with a mechanical stirrer and reflux condenser with 2-acetoxy-3,4-dihydronaphthalene (100.69 grams, 0.5349 moles), 4-bromo-2-methoxy-1-chlorobenzene (116.81 grams, 0.5274 moles), palladium acetate (1.19 grams, 0.0053 moles), tri (ο-tolyl)phosphine (3.24 grams, 0.0107 moles), tri-n-butyltin methoxide (172.83 grams, 0.5383 moles) and 1 L toluene. Place in an oil bath pre-heated to 100°-105° C. for 20 hours. Distill off about 750 mL toluene, cool to RT, add 500 mL 5% HCl and 250 mL ethyl acetate, stir for a few minutes, filter through a pad of celite and wash the celite pad with 5×250 mL ethyl acetate. Separate the layers, extract the aqueous layer with 1×250 mL ethyl acetate, wash the combined organic layers with saturated sodium bicarbonate solution followed by saturated salt solution, dry over magnesium sulfate and concentrate on a Buchi rotavapor. Kugelrohr treat the resulting oil (heated to about 130° C., 1 Torr) to remove the more volatile by-products to yield product. An analytical sample can be prepared by flash chromatography (5-30% ethyl acetate/hexanes) followed by recrystallization (ethyl acetate/hexanes).

reactant | 2-acetoxy-3,4-dihydronaphthalene | 0.5349 moles, 100.69 grams | C(C)(=O)OC1=CC2=CC=CC=C2CC1 | C12H12O2
reactant | 4-bromo-2-methoxy-1-chlorobenzene | 0.5274 moles, 116.81 grams | BrC1=CC(=C(C=C1)Cl)OC | C7H6BrClO
reactant | tri-n-butyltin methoxide | 0.5383 moles, 172.83 grams | C[O-].C(CCC)[Sn+](CCCC)CCCC
catalyst | palladium acetate | 0.0053 moles, 1.19 grams | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
product | (±)-(1RS)-1-(4-Chloro-3-methoxyphenyl)-3,4-dihydro-2(1H)-naphthalenone | ClC1=C(C=C(C=C1)C1C(CCC2=CC=CC=C12)=O)OC | C17H15ClO2
